US08309597B2
7-(4-Carboxy-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester
Sodium hydroxide (0.73 g dissolved in 25 mL water) is added to a solution of 7-(4-ethoxycarbonyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (3.00 g) in ethanol (100 mL). The resulting suspension is stirred at 45° C. overnight. The solution is concentrated and the aqueous residue is adjusted to pH value 2-3 using 1 M hydrochloric acid. Then dichloromethane is added and the mixture is stirred for 10 min. The organic phase is separated and the aqueous phase is extracted with dichloromethane twice. The combined organic phases are dried (Na2SO4) and concentrated. The residue is purified by chromatography on silica gel (petrol ether/ethyl acetate/acetic acid 50:50:0.5) to furnish the title compound as an oil.

reactant | Sodium hydroxide | 25 mL, 0.73 g | [OH-].[Na+]
reactant | 7-(4-ethoxycarbonyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 3.00 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OC1=CC=C(C=C1)C(=O)OCC | C26H25NO5
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 7-(4-Carboxy-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OC1=CC=C(C=C1)C(=O)O | C24H21NO5
